US05538976
5-[N-(4-Bromo-3-fluorobenzyl)-N-(4-cyanophenyl)amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl)amino]pyrimidine and 4-bromo-3-fluorobenzyl bromide

reactant | 5-[N-(4-cyanophenyl)amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 4-bromo-3-fluorobenzyl bromide | BrC1=C(C=C(CBr)C=C1)F | C7H5Br2F
product | 5-[N-(4-Bromo-3-fluorobenzyl)-N-(4-cyanophenyl)amino]pyrimidine | BrC1=C(C=C(CN(C2=CC=C(C=C2)C#N)C=2C=NC=NC2)C=C1)F | C18H12BrFN4
